US05861359
This compound is prepared in a manner analogous to that of Step H of Example 1, using 3.2 grams (0.010 mole) of 4-chloro-3-[2-fluoro-4-(1,1-dimethylethoxy)phenyl]-5-trifluoromethylisoxazole and 20 mL (0.020 mole) of 1M boron tribromide (in methylene chloride) in 50 mL of methylene chloride, yielding 3-fluoro-4-(4-chloro-5-trifluoromethyl-isoxazol-3-yl)phenol.

reactant | 4-chloro-3-[2-fluoro-4-(1,1-dimethylethoxy)phenyl]-5-trifluoromethylisoxazole | 0.010 mole, 3.2 grams | ClC=1C(=NOC1C(F)(F)F)C1=C(C=C(C=C1)OC(C)(C)C)F | C14H12ClF4NO2
reactant | boron tribromide | 0.020 mole, 1M, 20 mL | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 3-fluoro-4-(4-chloro-5-trifluoromethyl-isoxazol-3-yl)phenol | FC=1C=C(C=CC1C1=NOC(=C1Cl)C(F)(F)F)O | C10H4ClF4NO2
